US07737189B2
A hybrid alcogel was prepared by the two-stage hydrolysis and condensation of tetraethoxysilane (TEOS). The latter was first dissolved in isopropanol (iPrOH), using a TEOS/iPrOH molar ratio of 1:9.2. The aqueous latex dispersion containing about 4 wt-% of solids was diluted with distilled water to obtain a water/TEOS molar ratio of 6.5, after which it was added dropwise to an alcoholic solution of tetraethoxysilane, with stirring. The reaction mixture thus obtained was acidified with 0.1 N hydrochloric acid, using an HCl/TEOS molar ratio of 0.007. The acidic sol containing 25 wt-% of tetraethoxysilane was placed in a closed vessel, heated to 60° C. and stirred for 60 minutes at about 140 rpm. Ammonia was then added until an NH4OH/TEOS molar ratio of 0.007 was obtained. The resulting homogeneous sol was allowed to stand without stirring, whereupon gelling occurred in about 4 minutes. The hybrid alcogel was aged for 48 hours at 60° C., and specifically in the residual liquid over the first 24 hours, and then in the same amount of an ageing liquid comprising tetraethoxysilane, isopropanol and water in the proportions used for preparing the gel. The liquid in the pores was then replaced by washing the product with isopropanol. After washing the gel, it was dried under subcritical conditions at 60° C. and under atmospheric pressure. The evaporation was allowed to continue under controlled conditions until virtually no appreciable weight loss occurred. The dry hybrid gel contained 3 wt-% of latex.

reactant | tetraethoxysilane | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | TEOS iPrOH | C(C)O[Si](OCC)(OCC)OCC.CC(C)O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | water TEOS | O.C(C)O[Si](OCC)(OCC)OCC | InChI=1S/C8H20O4Si.H2O/c1-5-9-13(10-6-2,11-7-3)12-8-4;/h5-8H2,1-4H3;1H2
